US07056918B2
1,3-Diethyl-5-(1-oxiranylmethyl-3-m-tolyl-1H-pyrazol-4-yl)-1,3-dihydro-benzoimidazol-2-one (obtained using a method similar to that for [4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-m-tolyl-pyrazol-1-yl]-acetaldehyde, substituting epibromohydrin for allyl iodide) (0.016 g) was diluted with diethylamine (0.3 mL, as a 70% solution in water) and stirred at 23° C. for 0.5 hours. Azeotropic removal of the water with toluene gave 1,3-Diethyl-5-[1-(3-ethylamino-2-hydroxy-propyl)-3-m-tolyl-1H-pyrazol-4-yl]-1,3-dihydro-benzoimidazol-2-one.

reactant | [4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-m-tolyl-pyrazol-1-yl]-acetaldehyde | C(C)N1C(N(C2=C1C=CC(=C2)C=2C(=NN(C2)CC=O)C=2C=C(C=CC2)C)CC)=O | C23H24N4O2
reactant | allyl iodide | C(C=C)I | C3H5I
reactant | diethylamine | C(C)NCC | C4H11N
solvent | water | O | H2O
product | 1,3-Diethyl-5-[1-(3-ethylamino-2-hydroxy-propyl)-3-m-tolyl-1H-pyrazol-4-yl]-1,3-dihydro-benzoimidazol-2-one | C(C)N1C(N(C2=C1C=CC(=C2)C=2C(=NN(C2)CC(CNCC)O)C=2C=C(C=CC2)C)CC)=O | C26H33N5O2
